US04364875
6-Chloro-4-nitro-1,3-diphenoxy-benzene
A mixture of 1 mol of 2,4,5-trichloro-1-nitrobenzene, 2 mols of potassium phenolate and phenol was heated for 1 hour at 165° C., and the reaction product was isolated as described in Example A(a), yielding the title compound, m.p. 95° C. (recrystallized from ethanol).

reactant | 2,4,5-trichloro-1-nitrobenzene | 1 mol | ClC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | potassium phenolate | 2 mols | C1(=CC=CC=C1)[O-].[K+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 6-Chloro-4-nitro-1,3-diphenoxy-benzene | ClC1=CC(=C(C=C1OC1=CC=CC=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C18H12ClNO4
